US04247555
From 4,9-dihydro-7-butylthio-9-oxo-pyrazolo-[5,1-b]quinazoline-2-carboxylic acid (1.9 g; 6 mmole), DMF (25 ml), 1,1'-carbonyl-diimidazole (2.19 g; 13.5 mmole) and 5-amino-1H-tetrazole, monohydrate (0.70 g; 6.8 mmole), following the procedure of Example 3, there is obtained 4,9-dihydro-7-butylthio-9-oxo-N-1H-tetrazol-5-yl-pyrazolo[5,1-b]quinazoline-2-carboxamide, with 1H-imidazole (3:1) (0.4 g); mp 285° (d).

reactant | 4,9-dihydro-7-butylthio-9-oxo-pyrazolo-[5,1-b]quinazoline-2-carboxylic acid | 6 mmole, 1.9 g | C(CCC)SC1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)O)=O | C15H15N3O3S
reactant | 1,1'-carbonyl-diimidazole | 13.5 mmole, 2.19 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-amino-1H-tetrazole, monohydrate | 6.8 mmole, 0.70 g | O.NC1=NN=NN1
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4,9-dihydro-7-butylthio-9-oxo-N-1H-tetrazol-5-yl-pyrazolo[5,1-b]quinazoline-2-carboxamide | C(CCC)SC1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)NC3=NN=NN3)=O | C16H16N8O2S
